US07932271B2
[5-Chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]acetonitrile
To an ethyl acetate (5 ml) solution of [5-chloro-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]pyridin-2-yl]acetonitrile (387 mg, 0.92 mmol) were added methanol (5 ml), 31% aqueous hydrogen peroxide (3 ml) and hexaammonium heptamolybdate tetrahydrate (227 mg, 0.18 mmol). The resulting mixture was stirred at room temperature for 2 hours. Water was added to the reaction mixture. Ethyl acetate and methanol were distilled off under reduced pressure. To the residue was added a saturated aqueous solution of sodium bicarbonate. The product thus obtained was extracted with dichloromethane. The organic layer was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=17:3 eluate was concentrated under reduced pressure to give the title compound (364 mg, 0.80 mmol, 87%) as a white solid.

reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
reactant | [5-chloro-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]pyridin-2-yl]acetonitrile | 0.92 mmol, 387 mg | ClC=1C(=CC(=NC1)CC#N)C(C1=C(C=CC(=C1)F)F)SC1=CC=C(C=C1)Cl | C20H12Cl2F2N2S
reactant | methanol | 5 ml | CO | CH4O
reactant | hydrogen peroxide | 3 ml | OO | H2O2
reactant | Water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | [5-Chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]acetonitrile | 0.80 mmol, 364 mg, 87% | ClC=1C(=CC(=NC1)CC#N)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C20H12Cl2F2N2O2S
